US07214700B2
N-(3-Dimethylaminophenyl)-2-(3,5-dimethyl-1H-pyrrol-2-yl)-2-(2-oxo-1,2-dihydroindol-3-ylidene)-acetamide
(3,5-Dimethyl-1H-pyrrol-2-yl)-(2-oxo-1,2-dihydroindol-3-ylidene)-acetic acid (90 mg) was reacted with 3-dimethylaminoaniline dihydrochloride (85 mg) using method B to give 32 mg (25%) of the title compound.

reactant | (3,5-Dimethyl-1H-pyrrol-2-yl)-(2-oxo-1,2-dihydroindol-3-ylidene)-acetic acid | 90 mg | CC1=C(NC(=C1)C)C(C(=O)O)=C1C(NC2=CC=CC=C12)=O | C16H14N2O3
reactant | 3-dimethylaminoaniline dihydrochloride | 85 mg | Cl.Cl.CN(C=1C=C(N)C=CC1)C
product | N-(3-Dimethylaminophenyl)-2-(3,5-dimethyl-1H-pyrrol-2-yl)-2-(2-oxo-1,2-dihydroindol-3-ylidene)-acetamide | 32 mg, 25% | CN(C=1C=C(C=CC1)NC(C(=C1C(NC2=CC=CC=C12)=O)C=1NC(=CC1C)C)=O)C | C24H24N4O2
